US07326791B2
(b) 4-(4-oxo-2-propyl-4,5-dihydroimidazo[4,5-c]pyridin-1-yl)-3-trifluoromethylbenzoic acid
Prepared analogously to Example 1f from 4-(4-oxo-2-propyl-4,5-dihydroimidazo[4,5-c]-pyridin-1-yl)-3-trifluoromethylbenzonitrile and sodium hydroxide solution in ethanol. Yield: 98%; Rf value: 0.42 (silica gel: dichloromethane/methanol/glacial acetic acid=4:1:0.1).

reactant | 4-(4-oxo-2-propyl-4,5-dihydroimidazo[4,5-c]-pyridin-1-yl)-3-trifluoromethylbenzonitrile | O=C1NC=CC2=C1N=C(N2C2=C(C=C(C#N)C=C2)C(F)(F)F)CCC | C17H13F3N4O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | dichloromethane methanol | ClCCl.CO
solvent | ethanol | C(C)O | C2H6O
product | 4-(4-oxo-2-propyl-4,5-dihydroimidazo[4,5-c]pyridin-1-yl)-3-trifluoromethylbenzoic acid | Yield: 98% | O=C1NC=CC2=C1N=C(N2C2=C(C=C(C(=O)O)C=C2)C(F)(F)F)CCC | C17H14F3N3O3
